US08076491B2
To (4-methoxyphenyl)methanamine (1.77 mL, 13.6 mmol) and acetic acid (2.7 mL, 45 mmol) in dichloromethane (15 mL) was added 3,4-difluorobenzaldehyde (1.0 m, 9.08 mmol). This mixture was heated in the microwave at 100° C. for 15 min. The reaction was cooled to room temperature and macroporous cyanoborohydride resin (9.8 g, 22.7 mmol) was added in portions. This mixture was stirred at room temperature for 16 hours. The resin was filtered off and rinsed with dichloromethane and the organics were washed with saturated sodium bicarbonate until bubbling ceased. The organics were dried over sodium sulfate and concentrated via rotovap. The resulting crude material was purified by silica gel chromatography using methanol dichloromethane gradient as eluent to afford N-(3,4-difluorobenzyl)(4-methoxyphenyl)methanamine as a yellowish oil (1.9 g, 80% yield). MS (M+H, 264); 1H NMR (400 MHz, DMSO-d6): δ, ppm: 2.63 (br s, 1H), 3.56 (s, 2H), 3.61 (s, 2H), 3.71 (s, 3H), 6.84 (d, J=8.8 Hz, 2H), 7.14 (m, 1H), 7.21 (d, J=8.4 Hz, 2H), 7.34 (m, 2H).

reactant | (4-methoxyphenyl)methanamine | 13.6 mmol, 1.77 mL | COC1=CC=C(C=C1)CN | C8H11NO
reactant | acetic acid | 45 mmol, 2.7 mL | C(C)(=O)O | C2H4O2
reactant | 3,4-difluorobenzaldehyde | 9.08 mmol | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | cyanoborohydride | 22.7 mmol, 9.8 g | C(#N)[BH3-]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-(3,4-difluorobenzyl)(4-methoxyphenyl)methanamine | 1.9 g, 80% yield | FC=1C=C(CNCC2=CC=C(C=C2)OC)C=CC1F | C15H15F2NO
